US06350907B1
According to the method of Preparation 25(a), 2-bromo-5-nitrotoluene (15 gm, 69.4 mmol) was treated with phenyl boronic acid (12.7 gm, 104.1 mmol) under palladium catalysis, using 2M aqueous sodium carbonate as base at reflux in dimethoxyethane for 16 h. After being cooled, the mixture was separated the organic layer was diluted with diethyl ether and washed with water (twice). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with hexane to hexane:ethyl acetate 95:5) to give 2-methyl-4-nitro-1-phenylbenzene as a yellow solid (12.7gm, 86%).

reactant | 2-bromo-5-nitrotoluene | 69.4 mmol, 15 gm | BrC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6BrNO2
reactant | phenyl boronic acid | 104.1 mmol, 12.7 gm | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 2-methyl-4-nitro-1-phenylbenzene | 12.7gm, 86% | CC1=C(C=CC(=C1)[N+](=O)[O-])C1=CC=CC=C1 | C13H11NO2
